US08802678B2
To a cooled solution of 1 g (3 mmol) of 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}aniline in 30 mL of dichloromethane and 0.3 g (3 mmol) of triethylamine, is slowly added 0.32 g (3 mmol) of ethyl chloroformate. The mixture is stirred overnight at room temperature then concentrated under reduced pressure. The product is dissolved in ethyl acetate, washed twice with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The oily residue is purified over 10 g of silica gel (eluant dichloromethane/methanol 95/5) to give 0.35 g (29%) of (3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}phenyl)carbamic acid ethyl ester.

reactant | 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}aniline | 3 mmol, 1 g | O1CCOC12CCC(CC2)CCN2CCN(CC2)C=2C=C(N)C=CC2 | C20H31N3O2
reactant | triethylamine | 3 mmol, 0.3 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3 mmol, 0.32 g | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}phenyl)carbamic acid ethyl ester | 0.35 g, 29% | C(C)OC(NC1=CC(=CC=C1)N1CCN(CC1)CCC1CCC2(OCCO2)CC1)=O | C23H35N3O4
